* Extracted by KLayout with SG13G2 LVS runset on : 25/03/2026 19:36

.SUBCKT dffc
M$1 \$1 \$7 \$4 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.1425p PS=2.18u
+ PD=1.13u
M$2 \$4 \$17 \$1 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.1425p AD=0.255p PS=1.13u
+ PD=2.18u
M$3 \$5 \$3 \$7 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$4 \$7 \$6 \$9 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$5 \$5 \$10 \$1 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$6 \$1 \$6 \$3 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$7 \$1 \$4 \$9 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$8 \$23 \$6 \$10 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$9 \$10 \$3 \$24 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$10 \$1 \$5 \$24 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.1425p
+ PS=2.18u PD=1.13u
M$11 \$24 \$17 \$1 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.1425p AD=0.255p
+ PS=1.13u PD=2.18u
M$12 \$5 \$10 \$2 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$13 \$8 \$17 \$2 \$2 sg13_lv_pmos L=0.15u W=3u AS=0.795p AD=0.795p PS=5.56u
+ PD=5.56u
M$15 \$5 \$6 \$7 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$16 \$7 \$3 \$9 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$17 \$4 \$7 \$8 \$2 sg13_lv_pmos L=0.15u W=3u AS=0.795p AD=0.795p PS=5.56u
+ PD=5.56u
M$19 \$24 \$17 \$31 \$2 sg13_lv_pmos L=0.15u W=3u AS=0.795p AD=0.795p PS=5.56u
+ PD=5.56u
M$21 \$23 \$3 \$10 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$22 \$10 \$6 \$24 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$23 \$31 \$5 \$2 \$2 sg13_lv_pmos L=0.15u W=3u AS=0.795p AD=0.795p PS=5.56u
+ PD=5.56u
M$25 \$2 \$6 \$3 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$26 \$2 \$4 \$9 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
.ENDS dffc
